datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1.C[Si:63](C)(Cl)[CH2:62][CH:11]=[CH2:10]>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH2:10][CH+:11][CH2:62][Si:63](C)(C)Cl)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1 10,11=10,20;20,21=21,22;22,23=23"
Br[C:64]1=[CH:63][CH:62]=[C:61]([S-:10])[CH:72]=[CH:73]1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3(C4=CC=CC=C4)[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3(C4=CC=CC=C4)[C:31]1([CH2:20][S:10][C:61]1=[CH:62][CH:63]=[C:64](Br)[CH:73]=[CH:72]1)[Co-3:42]32(C#[O+])(C#[O+])C#[O+] 10=20
"C1=CC=C([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)C=C1.C[N:12]1[C:11](=[CH2:10])[N:61](C)[C:64]2=[C:63]1C=CC=C2>>C[N+:12]1=[C:11]([CH2:10][CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:41]=[C:42](C2=CC=CC=C2)[C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)[N:61](C)[C:64]2=[C:63]1C=CC=C2 10,11=10,20;12=11,12"
"C[C:21]1=[CH:20]CC[C:22]1=[O:23].C[Zr:11]12345678([CH3:10])(C9C1C2C3C94)C1C5C6C7C18>>C[C:21]1=[C:22]([O-:23])CC[CH:20]1[CH3:10].C[Zr+:11]12345678(C9C1C2C3C94)C1C5C6C7C18 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([C+:20]2[S:31]CCC[S:41]2)C=C1.C1=CC=C([Si](C2=CC=CC=C2)(C2=CC=CC=C2)C2CCC[N:12]2/[CH:11]=[CH:10]/C2=CC=CC=C2)C=C1>>C1=CC=C([Si](C2=CC=CC=C2)(C2=CC=CC=C2)C2CCC[N+:12]2=[CH:11][CH:10](C2=CC=CC=C2)[C:20]2(C3=CC=CC=C3)[S:31]CCC[S:41]2)C=C1 10,11=10,20;12=11,12"
"C[C:11]1=[CH:10][CH:61]=[C:62](C)[N:12]1C.C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[C:42]([C:43]2=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>C[C:11]1=[N+:12](C)[C:62](C)=[CH:61][CH:10]1[CH:20]([C:31]1=[CH:32][CH:33]=[C:34]([N:37](C)C)[CH:35]=[CH:36]1)[CH:41]=[C:42]([C:43]1=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]1)[C:53]1=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]1 10,11=10,20;12=11,12"
"C1CCC[C:11](=[CH2:10])CCC1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([CH2:10][C+:11]1CCCCCCC1)[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.C[P+](C)(C)[Mo-3:11]1234(C#[O+])(C#[O+])([H:10])C5C1C2C3C54>>CC(C)(C)[C:22]1=[C:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[NH:23]1.C[P+](C)(C)[Mo-2:11]1234(C#[O+])(C#[O+])C5C1C2C3C54 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[Si](C)(C)O[N:12](O[Si](C)(C)C(C)(C)C)[C:11](C)=[CH2:10].CC[O:33][C:22](/[CH:21]=[CH:20]\[C:41](=[O:42])[O:52]CC)=[O:23]>>CC[O:33][C:22](=[CH:21][CH:20]([CH2:10][C:11](C)=[N+:12](O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)[C:41](=[O:42])[O:52]CC)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1.C[C-:10]([C:61](C)=[O:62])[C:71](C)=[O:72]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10](C)([C:61](C)=[O:62])[C:71](C)=[O:72])[C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1 10=20
"C/[C:11](=[CH:10]/C1=CC=CC=C1)[O-:12].CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1>>CC1=CC=C([S:32]([N-:21][CH:20]([CH:10](C2=CC=CC=C2)[C:11](C)=[O:12])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
"C[C:11]1=[CH:10][CH:61]=[CH:62][C:13]([O:14]C)=[CH:12]1.F[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>C[C:11]1=[CH:12][C:13](=[O+:14]C)[CH:62]=[CH:61][CH:10]1[CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]1 10,11=10,20;12,13=11,12;14=13,14"
"CC1=CC(C)=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C(C)=C1.CC[O:92][C:71]([CH-:10][C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)=[O:72]>>CC[O:92][C:71]([CH:10]([CH:20]([CH:21]=[C:22](C1=[N+](C2=C(C)C=C(C)C=C2C)C=CN1C)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)=[O:72] 10=20;20,21=21,22;22,23=23"
"C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][C:74](Cl)=[CH:75][CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C=C[CH:20]1C2C3C54>>C[N+:12]1=[C:11]([C:72]2=[CH:73][C:74](Cl)=[CH:75][CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2.[O+]#C[Fe-3:21]123(C#[O+])(C#[O+])C4C=C[CH:20]([H:10])C1C2C43 10,11=10,20;12=11,12;20,21=21"
